US08217051B2
In a manner similar to the method described in Example 1, 6-chlorooxindole (2.51 g, 15 mmol) (Alfa) was reacted with cyclopent-1-enecarbaldehyde (1.45 g, 15 mmol) (Aldrich) and piperidine (1.49 mL, 15 mmol) in methanol to give E/Z-6-chloro-3-cyclopent-1-enylmethylene-1,3-dihydro-indol-2-one as a yellow solid (Yield 1.13 g, 30%)

reactant | 6-chlorooxindole | 15 mmol, 2.51 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | cyclopent-1-enecarbaldehyde | 15 mmol, 1.45 g | C1(=CCCC1)C=O | C6H8O
reactant | piperidine | 15 mmol, 1.49 mL | N1CCCCC1 | C5H11N
solvent | methanol | CO | CH4O
product | Z-6-chloro-3-cyclopent-1-enylmethylene-1,3-dihydro-indol-2-one | Yield 1.13 g, 30% | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=CCCC1 | C14H12ClNO
